US04273785
p-Undecylaminobenzophenone
p-Aminobenzophenone (75 g.) is heated with undecyl bromide (200 g.) in dry hexamethyl phosphoramide (300 ml.) containing anhydrous potassium carbonate (90 g.) for 16 hours at 100° C. The solution is cooled to room temperature, filtered to remove solids, and the filtrate is diluted with cold water. The solid so obtained is collected and washed with water. Recrystallization from ethanol followed by dichloro methane provides the product of the Example.

reactant | p-Aminobenzophenone | 75 g | NC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C13H11NO
reactant | undecyl bromide | 200 g | C(CCCCCCCCCC)Br | C11H23Br
reactant | potassium carbonate | 90 g | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethyl phosphoramide | 300 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | p-Undecylaminobenzophenone | C(CCCCCCCCCC)NC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C24H33NO
